US08557983B2
7-(azidomethyl)-2-oxaspiro[3.5]nonane
To a 250 mL round-bottomed flask was EXAMPLE 440F (350 mg) in tetrahydrofuran (75.0 mL) to give a colorless solution. The solution was cooled to 0° C., triphenylphosphine (2.94 g), diisopropyl azodicarboxylate (2.18 mL) and diphenyl phosphorazidate (2.32 mL) were added and the reaction was stirred for 30 minutes at room temperature. Most of the tetrahydrofuran was removed by rotary evaporation and the residue was purified by regular phase flash column chromatography (Analogix, 0-20% hexanes/ethyl acetate).

reactant | triphenylphosphine | 2.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.18 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | diphenyl phosphorazidate | 2.32 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
reactant | tetrahydrofuran | 75.0 mL | O1CCCC1 | C4H8O
product | 7-(azidomethyl)-2-oxaspiro[3.5]nonane | N(=[N+]=[N-])CC1CCC2(COC2)CC1 | C9H15N3O
